US04802908
1,8-Diazabicyclo[5.4.0]undec-7-ene (0.30 mL, 2.00 mmol) was added dropwise over two minutes to a mixture of N,N-dimethyl-1,2-benzenedisulfonamide (0.53 g, 2.00 mmol) and phenyl (6-chloro-3,4-dihydro-4-methyl-3-oxopyrazin-2-yl)carbamate (0.56 g, 2.00 mmol) in anhydrous acetonitrile (20 mL) under nitrogen. After 3 hours at room temperature, glacial acetic acid (0.12 mL, 2.10 mmol) was added. The solvent was rotary evaporated and the residue was chromatographed on a column of silica gel using a solvent mixture of 1:1 dichloromethane-ether containing 2 mL/L acetic acid as eluant. The appropriate fractions were evaporated to leave 0.76 g of N'-[(6-chloro-3,4-dihydro-4-methyl-3-oxopyrazin-2-yl)aminocarbonyl]-N,N-dimethyl-1,2-benzenedisulfonamide as a crystalline solid melting at 227°-230° C.

reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 2.00 mmol, 0.30 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | N,N-dimethyl-1,2-benzenedisulfonamide | 2.00 mmol, 0.53 g | CN(S(=O)(=O)C=1C(=CC=CC1)S(=O)(=O)N)C | C8H12N2O4S2
reactant | phenyl (6-chloro-3,4-dihydro-4-methyl-3-oxopyrazin-2-yl)carbamate | 2.00 mmol, 0.56 g | ClC1=CN(C(C(=N1)NC(OC1=CC=CC=C1)=O)=O)C | C12H10ClN3O3
reactant | acetic acid | 2.10 mmol, 0.12 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | N'-[(6-chloro-3,4-dihydro-4-methyl-3-oxopyrazin-2-yl)aminocarbonyl]-N,N-dimethyl-1,2-benzenedisulfonamide | 0.76 g | ClC1=CN(C(C(=N1)NC(=O)NS(=O)(=O)C=1C(=CC=CC1)S(=O)(=O)N(C)C)=O)C | C14H16ClN5O6S2
